US07157447B2
4-Fluoro-2-methoxybenzonitrile.
To a solution of intermediate 126, 1-bromo-4-fluoro-2-methoxybenzene (9.0 g) in N-methylpyrrolidone (100 mL, Sure Seal; Aldrich) was added CuCN (6.6 g, 73.7 mmol, 1.8 eq.; Aldrich), and the mixture stirred at 180° C. under anhydrous nitrogen for 5.5 hrs. After cooling, 14% aqueous NH4OH (330 mL) was added and stirring continued for 45 min at room temperature. The mixture was extracted with ether (100 mL×3), and the combined extracts washed sequentially with dilute aqueous NH4OH, dilute HCl and brine, then dried (MgSO4), and concentrated to provide the title compound (5.2 g, Yield 85% in 2 steps) as a white solid: 1H NMR (CDCl3, 500 MHz) δ ppm: 3.91 (3H, s, OMe), 6.69 (1H, dd, J=2.3 Hz, J=10.5 Hz, Ar—H), 6.72 (1H, dt, J=2.5 Hz, J=J=8.0 Hz, Ar—H), 7.55 (1H, dd, J=6.5 Hz, J=8.5 Hz, Ar—H); 13C NMR (CDCl3, 125.8 Hz) δ ppm: 56.49, 98.16, 100.06, 100.27, 108.31, 108.50, 115.83 135.37, 135.46, 163.25, 163.34 165.47, 167.50. An analytical sample was obtained by trituration with ether: Anal. calcd for C8H6FNO: C, 63.57; H, 4.00; N, 9.26. found: C, 63.36; H, 3.91; N, 9.16.

reactant | 1-bromo-4-fluoro-2-methoxybenzene | 9.0 g | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
reactant | CuCN | 73.7 mmol, 6.6 g, 1.8 eq. | C(#N)[Cu]
reactant | NH4OH | 330 mL | [NH4+].[OH-]
solvent | N-methylpyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 4-Fluoro-2-methoxybenzonitrile | 5.2 g, Yield 85% | FC1=CC(=C(C#N)C=C1)OC | C8H6FNO
